US07728025B2
(Step 1) Production of t-butyl 2-(4-amino-2-fluoro-phenyl)-pyrrole-1-carboxylate
1.6 g of 1-(t-butoxycarbonyl)pyrrole-2-boronic acid, 200 mg of tetrakistriphenylphosphine palladium, 5 ml of aqueous saturated sodium carbonate solution and 5 ml of water were added in order to a dimethoxyethane (10 ml) solution of 1 g of 4-bromo-3-fluoro-phenylamine, and the reaction liquid was stirred in a nitrogen atmosphere at 70° C. for 3 hours. After cooled, the reaction liquid was filtered through Celite, and the filtrate was diluted with ethyl acetate, washed with water and saturated saline in order, and dried with anhydrous magnesium sulfate. The solvent was evaporated away under reduced pressure, and the resulting residue was purified through silica gel column chromatography (developing solvent: hexane/ethyl acetate=2/1) to obtain the entitled compound as a pale brown solid.

reactant | 1-(t-butoxycarbonyl)pyrrole-2-boronic acid | 1.6 g | C(C)(C)(C)OC(=O)N1C(=CC=C1)B(O)O | C9H14BNO4
reactant | sodium carbonate | 5 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 5 ml | O | H2O
reactant | 4-bromo-3-fluoro-phenylamine | 1 g | BrC1=C(C=C(C=C1)N)F | C6H5BrFN
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
product | t-butyl 2-(4-amino-2-fluoro-phenyl)-pyrrole-1-carboxylate | NC1=CC(=C(C=C1)C=1N(C=CC1)C(=O)OC(C)(C)C)F | C15H17FN2O2
